US06020345
Stage 5: 2-[6-(2-trimethylsilanyl-ethoxymethoxymethyl)pyridin-2-yl]pyrrole-1-carboxylic Acid tert-butyl Ester
9.68 g of thallium carbonate (20.6 mmol), 1 g of tetrakis(triphenylposphine)palladium (0.86 mmol) and 2.45 g of 1-tert-butoxycarbonylpyrrol-2-yl boronic acid (11.6 mmol) are added to a solution of 4 g of trifluoromethanesulfonic acid 6-(2-trimethylsilanyl-ethoxymethoxymethyl)pyridin-2-yl ester (10.3 mmol) and 40 ml of benzene degassed by bubbling of nitrogen. The mixture is stirred for 23 hours under an argon atmosphere. The insoluble matter is removed by filtration on celite and then the solution concentrated under vacuum. The title product is isolated by chromatography on a silica column (eluent: dichloromethane/ethyl acetate; 99:1). 3.90 g of a yellow oil are recovered.

reactant | thallium carbonate | 20.6 mmol, 9.68 g | C([O-])([O-])=O.[Tl+2]
reactant | 1-tert-butoxycarbonylpyrrol-2-yl boronic acid | 11.6 mmol, 2.45 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | trifluoromethanesulfonic acid 6-(2-trimethylsilanyl-ethoxymethoxymethyl)pyridin-2-yl ester | 10.3 mmol, 4 g | C[Si](CCOCOCC1=CC=CC(=N1)OS(=O)(=O)C(F)(F)F)(C)C | C13H20F3NO5SSi
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 2-[6-(2-trimethylsilanyl-ethoxymethoxymethyl)pyridin-2-yl]pyrrole-1-carboxylic Acid tert-butyl Ester | Yield: 93.6% | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=NC(=CC=C1)COCOCC[Si](C)(C)C | C21H32N2O4Si
